US08211908B2
To a solution of 1.2 g of 2-chloro-5-fluoropyridin-3-amine in 5 mL of pyridine, 0.86 mL of 2-methylacryloyl chloride was added under cooling with ice, and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture, water and ethyl acetate were added, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was washed sequentially with water and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by flash silica gel column chromatography using gradient elution with hexane:ethyl acetate=100:0 to 50:50 to obtain 1.1 g of N-(2-chloro-5-fluoropyridin-3-yl)-2-methylacrylamide as a colorless oily substance.

reactant | 2-chloro-5-fluoropyridin-3-amine | 1.2 g | ClC1=NC=C(C=C1N)F | C5H4ClFN2
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | 2-methylacryloyl chloride | 0.86 mL | CC(C(=O)Cl)=C | C4H5ClO
product | N-(2-chloro-5-fluoropyridin-3-yl)-2-methylacrylamide | 1.1 g | ClC1=NC=C(C=C1NC(C(=C)C)=O)F | C9H8ClFN2O
